US04914204
To a stirred suspension of sodium hydride (60% in oil, 4.0 g) in 75 ml of dimethylformamide was added a solution of 22.69 g of 1-benzyl-4-hydroxy-4-phenyl piperidine in 100 ml of dimethylformamide. The mixture was heated with a heat gun to initiate evolution of gas. When evolution had ceased, the mixture was cooled to ice bath temperature and 18.61 g of hexafluorobenzene was added, dropwise, and the reaction was allowed to proceed for 20 hours. The reaction mixture was then poured into 500 ml of iced water and the aqueous suspension extracted with ethyl acetate. The organic layer was washed with water, followed by a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After filtering, evaporation of the solvent afforded a residue which was purified by means of high pressure liquid chromatography (silica gel; elution with 10% ethyl acetate/dichloromethane) to yield 5.36 g, (14.53%) of 1-benzyl-4-(2,3,4,5,6,-pentafluorophenoxy)-4-phenyl piperidine, m.p. 80°-83° C.

reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | 1-benzyl-4-hydroxy-4-phenyl piperidine | 22.69 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)O | C18H21NO
reactant | hexafluorobenzene | 18.61 g | FC1=C(C(=C(C(=C1F)F)F)F)F | C6F6
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-4-(2,3,4,5,6,-pentafluorophenoxy)-4-phenyl piperidine | 14.53% | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)OC1=C(C(=C(C(=C1F)F)F)F)F | C24H20F5NO
